US06596445B1
34.3 3,3,3-Trifluoro-1-(4-methylsulfanyl-phenyl)-propan-1-one oxime
Hydroxylammonium chloride (1.07 g, 15.4 mmol) and sodium acetate (1.85 g, 22.5 mmol) are dissolved in 10 ml of water. To this solution are added 2.35 g (10.0 mmol) of 3,3,3-trifluoro-1-(4-methylsulfanyl-phenyl)-propan-1-one in 30 ml of ethanol. The reaction mixture is heated to reflux for 6.5 hr. The reaction mixture was concentrated by rotary evaporation and poured into water. The product is extracted with CH2Cl2, and the organic layer is washed with water, followed by drying over anhydrous MgSO4. After evaporation of the solvent, the product is purified by column chromatography on silica gel with CH2Cl2-Hexane (2:1) as eluent. 1.48 g of white solid melting at 106-107° C. are obtained (59%). 1H NMR (CDCl3), δ[ppm]: d 2.51 (s, 3H), 3.73 (q, 2H), 7.26 (d, 2H), 7.57 (d, 2H), 8.23 (s, 1H).

reactant | Hydroxylammonium chloride | 15.4 mmol, 1.07 g | [Cl-].O[NH3+]
reactant | sodium acetate | 22.5 mmol, 1.85 g | C(C)(=O)[O-].[Na+]
reactant | 3,3,3-trifluoro-1-(4-methylsulfanyl-phenyl)-propan-1-one | 10.0 mmol, 2.35 g | FC(CC(=O)C1=CC=C(C=C1)SC)(F)F | C10H9F3OS
solvent | water | 10 ml | O | H2O
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 3,3,3-Trifluoro-1-(4-methylsulfanyl-phenyl)-propan-1-one oxime | 1.48 g | FC(CC(=NO)C1=CC=C(C=C1)SC)(F)F | C10H10F3NOS
